reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C:2](=[O:3])[C@@:4]([O:5][H:12])([C:6](=[O:7])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[O:3])[C:4]([O:5][H:12])=[C:6]=[O:7])([H:8])([H:9])[H:10].[H:11][H:13],67.56380962085171
[C:1](/[C:2]([C:3]#[N:4])=[C:5](\[O:6][H:11])[C:7]([H:12])([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]#[N:4])([C:5](=[O:6])[C:7]([H:12])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],54.747963443180275
[C:1](=[C:2])([C:3]([C:4]([C:5]#[N:6])([H:10])[H:11])([H:8])[H:9])[H:7]>>[C:1](#[C:2][C:3]([C:4]([C:5]#[N:6])([H:10])[H:11])([H:8])[H:9])[H:7],13.645426904503807
[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5](=[O:6])[H:15])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9].[H:14][H:16]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],66.90104602720231
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5](=[O:6])[H:14])[H:13])([H:7])([H:8])[H:9].[H:15][H:16]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]([O:6][H:16])([H:14])[H:15])[H:13])([H:7])([H:8])[H:9],73.39924319626039
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]2([C:5]([H:12])([H:13])[O:6]2)[C:7]1([H:14])[H:15])[H:8]>>[O:1]([C:2][C:3]([C@@:4]1([C:7]([H:9])([H:14])[H:15])[C:5]([H:12])([H:13])[O:6]1)([H:10])[H:11])[H:8],69.368999927211
[C:1](/[C:2]([O:3][H:12])=[C:4](/[C:5]([H:14])([H:15])[H:16])[C:6]#[N:7])([H:8])([H:9])[H:10].[H:11][H:13]>>[C:1]([C@@:2]([O:3][H:12])([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]#[N:7])[H:13])[H:11])([H:8])([H:9])[H:10],76.9888293102481
[O:1]1[C:2]([H:8])([H:9])[C@@:3]1([C:5](=[O:6])[H:12])[H:10].[O:4]([H:7])[H:11]>>[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5](=[O:6])[H:12])[H:10])([H:8])[H:9])[H:7],56.8448145872254
[C:1](=[C:2]=[C:3]=[C:4]([C:5]#[N:6])[H:11])([H:7])[H:9].[H:8][H:10]>>[C:1]([C:2]#[C:3][C:4]([C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9],46.31902751678071
[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[C:5]([H:15])([H:16])[H:17])([H:6])([H:7])[H:8]>>[C:1]([C:2](=[C:4]([H:13])[H:14])[C:5]([H:15])([H:16])[H:17])([H:6])([H:7])[H:8].[C:3]([H:9])([H:10])([H:11])[H:12],109.472506598133
[C:1]([N:2]([C@@:3]([C:4]([O:5][H:15])([H:13])[H:14])([C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]1([H:8])([H:9])[N:2]([H:11])[C@:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:12])[C:6][N:7]1[H:10],81.02134418393071
[C:1]([O:2][C:5]([H:14])([H:15])[H:16])([H:8])([H:9])[H:10].[C:3](=[C:4]([C:6]#[N:7])[H:13])([H:11])[H:12]>>[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],74.01992592615457
[C:1]([C@@:2]([O:3][H:12])([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]#[N:7])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]1([H:9])([H:10])[C@:2]([O:3][H:12])([H:11])[C@:4]([C:5]([H:14])([H:15])[H:16])([H:13])/[C:6]1=[N:7]/[H:8],100.679989038967
[C:1]([C:2]([C@@:3]1([H:12])[C:4]([H:13])([H:14])[N:5]1[C:6]([H:15])([H:16])[H:17])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C-:3]1[C:4]([H:13])([H:14])[N+:5]1([C:6]([H:15])([H:16])[H:17])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],75.27994925764742
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C@@:4]([C:5]([H:15])([H:16])[H:17])([O:6][H:18])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[C:4](/[C:5]([H:15])([H:16])[H:17])[H:14])[H:10])([H:7])([H:8])[H:9].[C:3]([O:6][H:18])([H:11])([H:12])[H:13],112.88967670395
[C:1](=[C:2]([O:3][H:12])[C:4]([O:5][H:9])=[C:6]=[C:7]([H:11])[H:13])([H:8])[H:10]>>[C:1]([C@@:2]([O:3][H:12])([C:4](=[O:5])[C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10],103.17025871988018
[C:1](=[O:2])([H:6])[H:7].[C:3]1([H:9])([H:10])[C:4]([H:8])=[N:5]1>>[C:1]([O:2][C:3]([C:4]#[N:5])([H:9])[H:10])([H:6])([H:7])[H:8],47.02253054151281
[C:5](=[C:6]=[C:7]([H:12])[H:15])([H:13])[H:14].[O:1]([C:2]([C:3](=[O:4])[H:11])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3]([O:4][C:5]([C:6]#[C:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8],50.597440831612445
[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C-:6]#[O+:7].[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([N:5]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],83.49830500579259
[C-:6]#[O+:7].[C:1]([C@:2]1([N:3]([H:11])[H:14])[O:4][C:5]1([H:12])[H:13])([H:8])([H:9])[H:10]>>[C:1](/[C:2](=[N:3]\[H:11])[O:4][C:5]([C:6](=[O:7])[H:14])([H:12])[H:13])([H:8])([H:9])[H:10],57.8361701161608
[C:1]([C:2]([O:3][C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]1([H:8])([H:10])[C:2]([H:11])([H:12])[O:3][C@:4]([C:5]([H:14])([H:15])[H:16])([H:13])[C@@:6]1([O:7][H:9])[H:17],75.34793246137771
[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:5]([H:14])([H:15])[H:16])([H:8])([H:9])[H:10].[C:3](=[C:4]([C:6]#[N:7])[H:13])([H:11])[H:12],96.21221882792707
[O:1]=[C:2](/[C:3](=[N:5]\[C:4]([C:6](=[O:7])[H:12])([H:10])[H:11])[H:9])[H:8]>>[O:1]=[C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[C:6](=[O:7])[H:12])[H:8],70.44983836752814
